US08580962B2
Tert-butyl 3-methoxy-4-methylenepyrrolidine-1-carboxylate (Compound 125a)
A solution of tert-butyl 3-hydroxy-4-methylenepyrrolidine-1-carboxylate (0.257 g, 1.29 mmol; prepared as described by Alcaraz, Lilian; Cridland, Andrew; Kinchin, Elizabeth Organic Letters, 2001, vol. 3, #25 p. 4051-4054) in 8 mL of THF, stirred at r.t. under a nitrogen atmosphere was added NaH. After 0.5 h stirring at r.t., methyl iodide (0.057 g, 1.42 mmol) was added and the resulting mixture stirred at r.t. for 2 h. After overnight resting, the reaction was quenched with water, extracted with EtOAc which was washed with brine, dried over Na2SO4 and evaporated to dryness affording a crude, purified by means of automated flash chromatography (SP01®TM-Biotage; gradient Petroleum Ether-EtOAc from 9:1 to 7:3) giving 165 mg of the title compound. Yield: 60%.

reactant | tert-butyl 3-hydroxy-4-methylenepyrrolidine-1-carboxylate | 1.29 mmol, 0.257 g | OC1CN(CC1=C)C(=O)OC(C)(C)C | C10H17NO3
reactant | NaH | [H-].[Na+]
reactant | methyl iodide | 1.42 mmol, 0.057 g | CI | CH3I
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | Tert-butyl 3-methoxy-4-methylenepyrrolidine-1-carboxylate | 165 mg, Yield: 60% | COC1CN(CC1=C)C(=O)OC(C)(C)C | C11H19NO3
